* Z:\mnt\design.r\spice\examples\3705.asc
XU1 0 N013 N023 N015 N021 N005 N016 N018 0 N012 N009 MP_01 MP_02 N010 N001 N002 LTC3705
R1 N018 0 100K
M§Q1 IN N005 N009 N009 BSS123
R2 IN N005 100K
R3 IN N015 365K
R4 N015 0 15K
V1 IN 0 50
C1 N009 0 2.2µ
M§Q2 N006 N012 N013 N013 Si4484EY
R5 N013 0 25m
M§Q3 IN N001 N002 N002 Si4484EY
L1 N006 N002 500µ
L2 0 N003 281µ
C2 N002 N010 .22µ
D1 N009 N010 1N914
D2 N006 IN MBR20100CT
D3 0 N002 MBR20100CT
D4 N003 N004 1N5817
D5 0 N004 1N5817
C3 OUT 0 75µ
R6 N023 IN 301K
C4 N023 0 270p
C5 N021 0 .001µ
C6 N016 0 470p
XU2 N017 N014 N016 0 NC_03 MOC205 Igain=2.44m
XU3 N014 N019 OUT N022 0 0 N020 N011 LT1431
C7 N011 N014 {.047µ/5}
C8 OUT N017 {.018µ/2.5}
R7 OUT N011 9.53K
R8 N011 0 2.49K
C9 OUT N011 {4.7n/5}
L3 0 N007 281µ
D6 N007 N008 1N5817
D7 0 N008 1N5817
L4 N009 N008 1m
Rload OUT 0 6
L5 N004 OUT 25µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L3 1.
.tran 600u startup
.lib LT1431.sub
.lib LTC3705.sub
.lib MOC205.sub
.backanno
.end
